US07435837B2
Treatment of (±)-(5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.50 g, 3.10 mmol) with phenyl boronic acid (0.564 g, 4.60 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.252 g, 0.30 mmol), and potassium carbonate (0.829 g, 6.0 mmol) generally according to the procedure described for Intermediate 35 provided 0.94 g of a white paste. Re-crystallization from methanol afforded 0.6 g (47%) of (±)-(5-chloro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 127-130° C.; Anal. calcd. for C22H19ClO4S: C, 63.69; H, 4.62. Found: C, 62.51; H, 4.48.

reactant | (±)-(5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.10 mmol, 1.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2OS(=O)(=O)C(F)(F)F)Cl | C17H14ClF3O7S2
reactant | phenyl boronic acid | 4.60 mmol, 0.564 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 6.0 mmol, 0.829 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.30 mmol, 0.252 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | methanol | CO | CH4O
product | (±)-(5-chloro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.6 g, 47% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CC=CC=C2)Cl | C22H19ClO4S
